US06642253B2
2c. Trifluoro-methanesulfonic Acid 1-Amino-3-methyl-isoquinolin-6-yl Ester
A mixture of 1.4 g of 1-amino-6-hydroxy-3-methyl-isoquinoline and 4.3 g of N-phenyl-bis(trifluoromethanesulfonimid) in 19.5 mL of dichloromethane and 19.5 mL of dioxane was cooled in an ice bath and 2.8 mL of N,N-diisopropylethylamine added dropwise. The resulting mixture was heated for 24 h at 70° C., after which the volatiles were removed in vacuo. The remaining residue was dissolved in ethyl acetate, washed with successive portions of 2N aqueous sodium hydroxide, water and brine and dried (sodium sulfate). Filtration and concentration afforded a colourless oil, which was triturated in toluene to give 1.3 g of a solid. The toluene solution was purified by silica chromatography (toluene/ethanol=95/5) yielding an additional 0.6 g of the title compound. Total yield 1.9 g. ESI-MS: 307 (MH+).

reactant | 1-amino-6-hydroxy-3-methyl-isoquinoline | 1.4 g | NC1=NC(=CC2=CC(=CC=C12)O)C | C10H10N2O
reactant | N-phenyl-bis(trifluoromethanesulfonimid) | 4.3 g | C1=CC=C(C=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
reactant | N,N-diisopropylethylamine | 2.8 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | dichloromethane | 19.5 mL | ClCCl | CH2Cl2
solvent | dioxane | 19.5 mL | O1CCOCC1 | C4H8O2
product | Trifluoro-methanesulfonic Acid 1-Amino-3-methyl-isoquinolin-6-yl Ester | 1.3 g | NC1=NC(=CC2=CC(=CC=C12)OS(=O)(=O)C(F)(F)F)C | C11H9F3N2O3S
